Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
body aches, urinary frequency
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of asthma, hyperlipidemia, 
pulmonary embolism, hypertension, CKD (chronic kidney disease) 
stage 3 presents with body aches, sent from PCP with acute renal 
failure. 
She reports 3 days of rhinorrhea, non-productive cough, 
myalgias, and has had poor PO intake, weakness, and fatigue.  
She also notes urinary frequency and mild dysuria.  She has had 
headaches without neck stiffness, photophobia, which have been 
responsive to acetaminophen.  She was sick in ___ with 
similar symptoms, but notes the cough has not resolved since.  

In the ED, initial vitals were 98.5 75 141/57 18 96% Nasal 
Cannula.  She was noted to have dry MM.  Lungs had bilateral 
crackles at the bases.  Labs showed creatinine 1.6 (baseline 
1.0), calcium 10.6, bicarbonate 21.  UA showed 3 WBC, few 
bacteria, positive nitrites.  Lactate was 1.4.  She received 
ceftriaxone and azithromycin, as well as 1 liter NS.  CXR showed 
left lower lobe retrocardiac opacity worrisome for pneumonia.  
Flu swab was negative. 

Currently, the patient feels a sense of malaise.  She has a 
non-productive cough, and her most noted symptom is urinary 
frequency with mild dysuria.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative. 
 
Past Medical History:
Hyperlipidemia
Pulmonary embolism
Hypertension
Chronic kidney disease, stage 3
Osteoarthritis  
Asthma
 
Social History:
___
Family History:
Father: CAD/PVD; Cancer - Colon; Diabetes - Unknown Type; 
Hypertension 
Mother:  AutoImmune Disease; CAD/PVD; Cancer - Breast; Diabetes 
- Unknown Type; Hypertension 
 
Physical Exam:
Admission exam:
Vitals: T: 98.7 BP: 151/72 P: 79 R: 18 O2: 98% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MM dry.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, rales at bases, no rhonchi 
or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema
DERM: No active rash.  
Neuro:  non-focal.  
PSYCH: Appropriate and calm. 

Discharge exam:
Vitals: 97.9, 167/73, 66, 18, 98% on RA
Gen: NAD, sitting up in chair, appears comfortable
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect

 
Pertinent Results:
Admission labs
___ 07:19PM BLOOD WBC-6.7 RBC-4.28 Hgb-12.0 Hct-36.6 MCV-86 
MCH-28.0 MCHC-32.8 RDW-14.7 RDWSD-45.6 Plt ___
___ 07:19PM BLOOD Glucose-166* UreaN-37* Creat-1.6* Na-134 
K-4.2 Cl-98 HCO3-21* AnGap-19
___ 06:30AM BLOOD ALT-38 AST-28 LD(LDH)-206 AlkPhos-73 
TotBili-0.4
___ 07:19PM BLOOD Calcium-10.6* Phos-3.7 Mg-2.0
___ 07:28PM BLOOD Lactate-1.4
___ 06:45PM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:45PM URINE Blood-NEG Nitrite-POS Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 06:45PM URINE RBC-<1 WBC-3 Bacteri-FEW Yeast-NONE Epi-2
___ 06:45PM URINE CastGr-3*

Discharge labs
___ 06:30AM BLOOD WBC-6.5 RBC-3.67* Hgb-10.4* Hct-31.9* 
MCV-87 MCH-28.3 MCHC-32.6 RDW-14.8 RDWSD-47.6* Plt ___
___ 07:19PM BLOOD Neuts-86.1* Lymphs-10.1* Monos-2.3* 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-5.75 AbsLymp-0.67* 
AbsMono-0.15* AbsEos-0.01* AbsBaso-0.03
___ 06:30AM BLOOD Glucose-133* UreaN-36* Creat-1.0 Na-137 
K-3.9 Cl-104 HCO3-24 AnGap-13
___ 06:30AM BLOOD Calcium-10.0

Micro:
Urine culture ___: negative
blood cultures ___: no growth to date

Imaging:
CXR ___: Left lower lobe retrocardiac opacity is worrisome for
pneumonia, less likely atelectasis.  Recommend followup to
resolution. 
 
Brief Hospital Course:
___ with asthma, HLD, PE, HTN, CKD III, and OA who presented 
with myalgias, cough, malaise, and ___ on labs. 

# Pneumonia
Patient was flu negative, but found to have a left lower lobe 
pneumonia on chest x ray. She was treated for community acquired 
pneumonia with IV ceftiaxone and azithromycin. She did not meet 
any SIRS criteria and was satting well on room air. She was 
transitioned to oral levofloxacin on discharge to complete a ___ on CKD
Patient presented with a creatinine of 2.0 in clinic from 
baseline of 1.0, improved after IV fluids and holding HCTZ and 
losartan. 1.0 on discharge. Her home losartan was restarted.

# Dysuria, polyuria
Patient had a negative UA and urine culture. Nonetheless, 
symptoms resolved with antibiotics and IV fluids. 

# Hypercalcemia
Improved with IV fluids and stopping HCTZ. Patient should have 
outpatient follow up for repeat calcium and BP monitoring off 
HCTZ. 

# HLD, OA: home meds continued on discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. trospium 20 mg oral DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Gabapentin 100 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Diclofenac Sodium ___ 75 mg PO BID 
8. Ferrous GLUCONATE 240 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 100 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Vitamin D 1000 UNIT PO DAILY 
7. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
8. Diclofenac Sodium ___ 75 mg PO BID 
9. Ferrous GLUCONATE 240 mg PO DAILY 
10. Losartan Potassium 100 mg PO DAILY 
11. trospium 20 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired pneumonia
Acute kidney injury
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were admitted to ___ for pneumonia. ___ received 
antibiotics and IV fluids, and ___ improved. It is now safe for 
___ to leave the hospital. 
-Please continue take levofloxacin this evening for 3 more days 
___ through ___
-We stopped your hydrochlorothiazide, as your calcium levels 
were found to be elevated. Please have your blood pressure 
rechecked at your doctor's office to decide whether or not to 
restart this medication.
 
Followup Instructions:
___